US09382188B2
G) 5-(benzyloxy)-3-neopentylpyridin-2-yl trifluoromethanesulfonate
Under a nitrogen atmosphere, to a solution of 5-(benzyloxy)-3-neopentylpyridin-2-ol (2.56 g) in pyridine (31.4 mL) was added trifluoromethanesulfonic acid anhydride (3.19 mL) at 0° C., and the mixture was stirred for 5 min. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (3.64 g) as a colorless oil.

reactant | 5-(benzyloxy)-3-neopentylpyridin-2-ol | 2.56 g | C(C1=CC=CC=C1)OC=1C=C(C(=NC1)O)CC(C)(C)C | C17H21NO2
reactant | trifluoromethanesulfonic acid anhydride | 3.19 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | pyridine | 31.4 mL | N1=CC=CC=C1 | C5H5N
product | 5-(benzyloxy)-3-neopentylpyridin-2-yl trifluoromethanesulfonate | 3.64 g | FC(S(=O)(=O)OC1=NC=C(C=C1CC(C)(C)C)OCC1=CC=CC=C1)(F)F | C18H20F3NO4S
